US06066658
A mixture of ethyl 5-acetylamino-4,5,6,7-tetrahydro-3-isopropylthio-4-oxobenzo[c]thiophene-1-carboxylate (1.00 g), phosphorus oxychloride (1.29 g) and toluene (30 ml) was refluxed under heating for 1.5 hours; the solution obtained was concentrated under reduced pressure, diluted with a saturated aqueous solution of sodium hydrogen carbonate and extracted with ethyl acetate. The organic layer was washed with water and dried (MgSO4), after which the solvent was distilled off to yield ethyl 4,5-dihydro-8-isopropylthio-2-methylthieno[3,4-g]benzoxazole-6-carboxylate (0.95 g, 100%), which was then recrystallized from ethyl acetate-hexane. Yellow prisms. Melting point 62-63° C.

reactant | ethyl 5-acetylamino-4,5,6,7-tetrahydro-3-isopropylthio-4-oxobenzo[c]thiophene-1-carboxylate | 1.00 g | C(C)(=O)NC1C(C=2C(=C(SC2SC(C)C)C(=O)OCC)CC1)=O | C16H21NO4S2
reactant | phosphorus oxychloride | 1.29 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4,5-dihydro-8-isopropylthio-2-methylthieno[3,4-g]benzoxazole-6-carboxylate | 0.95 g, 100% | C(C)(C)SC=1SC(=C2C1C1=C(N=C(O1)C)CC2)C(=O)OCC | C16H19NO3S2
